US06388088B1
A solution of triphenylphosphine (262 mg, 1 mmol) in methylene chloride (6 mL) was cooled to 0° C. and then treated with N-bromosuccinimide (178 mg, 1 mmol). The reaction mixture was stirred at 0° C. for 30 min and then treated with (E)-3-cyclopentyl-2-[3-methanesulfonyl-4-(5-methyl-tetrazol-1-yl)-phenyl]-acrylic acid (190 mg, 0.5 mmol). The reaction mixture was stirred for 15 min at 0° C. and then allowed to warm to 25° C. where it was stirred for 1.5 h. The reaction mixture was then treated with 2-aminothiazole (250 mg, 2.5 mmol), and the resulting suspension was stirred for 2 d at 25° C. The reaction mixture was then concentrated in vacuo to remove methylene chloride, and the residue was diluted with ethyl acetate (20 mL) and water (30 mL). The two layers were separated, and the aqueous layer was extracted with ethyl acetate (1×15 mL). The combined organic extracts were successively washed with a saturated aqueous sodium bicarbonate solution (1×50 mL) and a saturated aqueous sodium chloride solution (1×50 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40S, Silica, 3/1 hexanes/ethyl acetate) afforded (E)-3-cyclopentyl-2-[3-methanesulfonyl-4-(5-methyl-tetrazol-1-yl)-phenyl]-N-thiazol-2-yl-acrylamide (42 mg, 18%) as an amorphous white solid: EI-HRMS m/e calcd for C20H22N6O3S2 (M+) 458.1195, found 458.1192.

reactant | triphenylphosphine | 1 mmol, 262 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 1 mmol, 178 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | (E)-3-cyclopentyl-2-[3-methanesulfonyl-4-(5-methyl-tetrazol-1-yl)-phenyl]-acrylic acid | 0.5 mmol, 190 mg | C1(CCCC1)/C=C(/C(=O)O)\C1=CC(=C(C=C1)N1N=NN=C1C)S(=O)(=O)C | C17H20N4O4S
reactant | 2-aminothiazole | 2.5 mmol, 250 mg | NC=1SC=CN1 | C3H4N2S
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
product | (E)-3-cyclopentyl-2-[3-methanesulfonyl-4-(5-methyl-tetrazol-1-yl)-phenyl]-N-thiazol-2-yl-acrylamide | 42 mg, 18% | C1(CCCC1)/C=C(/C(=O)NC=1SC=CN1)\C1=CC(=C(C=C1)N1N=NN=C1C)S(=O)(=O)C | C20H22N6O3S2
